US07338959B2
N-(1-methyl-5-{methyl[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]amino}-1H-benzimidazol-2-yl)-N′-phenylurea
To a solution of N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine (150 mg, 0.343 mmol) in N,N-dimethylacetamide (3 ml) was added 1,1′-carbonyldiimidazole (167 mg, 1.03 mmol). The mixture was stirred for 24 h and then aniline (192 mg, 2.06 mmol) was added. The mixture was stirred for 2 h. The reaction was quenched with saturated sodium bicarbonate solution (30 ml) and the product precipitated. The crude product was filtered, washed with water, diethyl ether and air dried to give the desired product without further purification. 1H NMR (300 MHz, d6-DMSO) δ 12.14 (s, 1H), 9.26 (s, 1H), 9.12 (s, 1H), 7.86 (d, J=5.8 Hz, 1H), 7.76-7.68 (m, 4H), 7.42 (d, J=8.2 Hz, 1H), 7.30-7.20 (m, 5H), 7.12 (d, J=8.2 Hz, 1H), 6.89 (t, J=7.1 Hz, 1H), 5.75 (d, J=5.7 Hz, 1H), 4.34 (s, 2H), 3.57 (s, 3H), 3.44 (s, 3H), 2.84 (s, 3H). MS (ESI) m/z=557 [M+H]+.

reactant | N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine | 0.343 mmol, 150 mg | CN(C1=CC2=C(N(C(=N2)N)C)C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)CS(=O)(=O)C | C21H23N7O2S
reactant | 1,1′-carbonyldiimidazole | 1.03 mmol, 167 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | aniline | 2.06 mmol, 192 mg | NC1=CC=CC=C1 | C6H7N
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | N-(1-methyl-5-{methyl[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]amino}-1H-benzimidazol-2-yl)-N′-phenylurea | CN1C(=NC2=C1C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C)C)NC(=O)NC2=CC=CC=C2 | C28H28N8O3S
